US07511145B2
Step 4: 2-(4-Chloro-2-phenyl-quinolin-6-yl)-1-cyclohexyl-1H-benzoimidazole-5-carboxylic acid Ethyl Ester (Compound 481e)
1-Cyclohexyl-2-(4-oxo-2-phenyl-1,4-dihydro-quinolin-6-yl)-1H-benzoimidazole-5-carboxylic acid ethyl ester acid (4 g, 8.14 mmol) was dissolved in phosphorous oxy chloride and heated at 100° C. overnight. After evaporation of the solvent the product was recrystallized from methanol/water to give 3.96 g of crude product. Silica gel purification of the title compound proved to be unsatisfactory due to degradation of the product on the column. MS: 510.22 (M+H+).

reactant | 1-Cyclohexyl-2-(4-oxo-2-phenyl-1,4-dihydro-quinolin-6-yl)-1H-benzoimidazole-5-carboxylic acid ethyl ester | 8.14 mmol, 4 g | C(C)OC(=O)C1=CC2=C(N(C(=N2)C=2C=C3C(C=C(NC3=CC2)C2=CC=CC=C2)=O)C2CCCCC2)C=C1 | C31H29N3O3
reactant | phosphorous oxy chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(4-Chloro-2-phenyl-quinolin-6-yl)-1-cyclohexyl-1H-benzoimidazole-5-carboxylic acid Ethyl Ester | 3.96 g | C(C)OC(=O)C1=CC2=C(N(C(=N2)C=2C=C3C(=CC(=NC3=CC2)C2=CC=CC=C2)Cl)C2CCCCC2)C=C1 | C31H28ClN3O2
